US08980911B2
2,6-Dichloro-3-nitro-benzoic acid (10 g, 42 mmol, Step a) was added to concentrated hydrochloric acid (100 mL), followed by stannous chloride dihydrate (38 g, 169 mmol). The reaction mixture was heated at 60° C. for 1 hour. The reaction mixture was diluted with water (500 mL) and extracted with ethyl acetate (2×300 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to afford the crude product (sticky material). The crude material was dissolved in water (200 mL, turbid solution) and treated slowly with aqueous sodium hydroxide (20%) solution till precipitation while maintaining the pH 1-2 (dense precipitate was observed). The precipitate was filtered and filtrate was extracted with ethyl acetate (2×200 mL) and dried over anhydrous sodium sulfate and concentrated under vacuum to yield 3-amino-2,6-dichloro-benzoic acid as a creamish solid (6 gm, 69%).

reactant | 2,6-Dichloro-3-nitro-benzoic acid | ClC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
reactant | hydrochloric acid | 100 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 500 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 3-amino-2,6-dichloro-benzoic acid | NC=1C(=C(C(=O)O)C(=CC1)Cl)Cl | C7H5Cl2NO2
